US06833378B2
N4-(1-Ethyl-propyl)-3,6-dimethyl-N2-(2,4,6-trimethyl-phenyl)-pyridine-2,4-diamine
The title compound was prepared by reduction of 4-(1-ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-nicotinic acid with 1M of lithium aluminium hydride in diethyl ether and aluminium trichloride at reflux. 1H NMR(CDCl3)6.9(s,2H), 6.0(s,1H), 5.4(brs,1H), 3.6(d,1H), 3.3(m,1H), 2.32(s,3H), 2.2(s,3H), 2.15(s,6H), 1.4-1.7(m,4H), 1.0(t,6H) ppm.

reactant | 4-(1-ethyl-propylamino)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-nicotinic acid | C(C)C(CC)NC1=CC(=NC(=C1C(=O)O)NC1=C(C=C(C=C1C)C)C)C | C21H29N3O2
reactant | lithium aluminium hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | aluminium trichloride | [Cl-].[Cl-].[Cl-].[Al+3]
product | N4-(1-Ethyl-propyl)-3,6-dimethyl-N2-(2,4,6-trimethyl-phenyl)-pyridine-2,4-diamine | C(C)C(CC)NC1=C(C(=NC(=C1)C)NC1=C(C=C(C=C1C)C)C)C | C21H31N3
